US09056914B2
To a solution of 0.8 g of diethyl 4-{2-[(2-tert-butoxycarbonyl-ethyl)-(2-nitro-benzenesulfonyl)-amino]-ethoxy}-pyridine-2,6-dicarboxylate in 80 mL of ethanol were successively added 152 mg of sodium borohydride and 447 mg of CaCl2. The mixture was stirred at room temperature and 20 ml of water were then added at the end of the reaction. The ethanol was removed under reduced pressure, 100 ml of water were added to the residue obtained and the aqueous phase was extracted 3× with EtOAc. The organic phases were combined, washed with saturated NaCl solution, dried over MgSO4 and concentrated under reduced pressure. 670 mg of tert-butyl 3-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(2-nitro-benzenesulfonyl)-amino]-propanoate were obtained. LC/MS (C): tr=3 min; [M+H]+: m/z 512.

reactant | diethyl 4-{2-[(2-tert-butoxycarbonyl-ethyl)-(2-nitro-benzenesulfonyl)-amino]-ethoxy}-pyridine-2,6-dicarboxylate | 0.8 g | C(C)(C)(C)OC(=O)CCN(CCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C26H33N3O11S
reactant | sodium borohydride | 152 mg | [BH4-].[Na+]
reactant | CaCl2 | 447 mg | [Cl-].[Cl-].[Ca+2]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | tert-butyl 3-[[2-(2,6-bis-hydroxymethyl-pyridin-4-yloxy)-ethyl]-(2-nitro-benzenesulfonyl)-amino]-propanoate | 670 mg | OCC1=NC(=CC(=C1)OCCN(CCC(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CO | C22H29N3O9S
